US08912188B2
To a solution of methyl 3-(piperidin-1-yl)-2-(trifluoromethylsulfonyloxy)quinoxaline-6-carboxylate (290 mg, crude) in dioxane (5 mL) was added 1H-indol-5-ylboronic acid (337 mg, 2.1 mmol), K3PO4 (443 mg, 2.1 mmol), Pd(PPh3)4 (40 mg, 0.03 mmol) and water (0.5 mL). The resulting solution was stirred for 1 h at 90° C. and then quenched by the addition of CH2Cl2 (100 mL), washed with water (3×50 mL), dried over anhydrous sodium sulfate and concentrated in vacuo to give a residue, which was purified by silica gel column chromatography eluting with 5% ethyl acetate in petroleum ether to afford methyl 2-(1H-indol-5-yl)-3-(piperidin-1-yl)quinoxaline-6-carboxylate as a yellow solid (90.0 mg, 33%).

reactant | methyl 3-(piperidin-1-yl)-2-(trifluoromethylsulfonyloxy)quinoxaline-6-carboxylate | 290 mg | N1(CCCCC1)C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)OS(=O)(=O)C(F)(F)F | C16H16F3N3O5S
reactant | 1H-indol-5-ylboronic acid | 2.1 mmol, 337 mg | N1C=CC2=CC(=CC=C12)B(O)O | C8H8BNO2
reactant | K3PO4 | 2.1 mmol, 443 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | water | 0.5 mL | O | H2O
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.03 mmol, 40 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 2-(1H-indol-5-yl)-3-(piperidin-1-yl)quinoxaline-6-carboxylate | 90.0 mg, 33% | N1C=CC2=CC(=CC=C12)C1=NC2=CC=C(C=C2N=C1N1CCCCC1)C(=O)OC | C23H22N4O2
